data/polar.json
{"reaction_name": "Electrophilic SCF3 transfer by substitution at sulfur", "rsmi": "[CH3:1][CH:18]([CH3:2])[N+:33]1=[N:34][N:30]([CH:7]([CH3:35])[CH3:36])[C:37](=[CH2:29])[C-:8]1[C:14]([CH3:38])([CH3:39])[CH3:40].[O:3]=[S:16](=[O:4])([N:15]([S:13][C:9]([F:10])([F:11])[F:12])[S:17](=[O:5])(=[O:6])[c:32]1[cH:21][cH:27][cH:24][cH:28][cH:22]1)[c:31]1[cH:19][cH:25][cH:23][cH:26][cH:20]1>>[CH3:1][CH:18]([CH3:2])[n+:33]1[c:8]([C:14]([CH3:38])([CH3:39])[CH3:40])[c:37]([CH2:29][S:13][C:9]([F:10])([F:11])[F:12])[n:30]([CH:7]([CH3:35])[CH3:36])[n:34]1.[O:3]=[S:16](=[O:4])([N-:15][S:17](=[O:5])(=[O:6])[c:32]1[cH:21][cH:27][cH:24][cH:28][cH:22]1)[c:31]1[cH:19][cH:25][cH:23][cH:26][cH:20]1", "epd": [["LP-/Pi+", [8], [37, 8]], ["Pi-/Sigma+", [29, 37], [29, 13]], ["Sigma-/LP+", [13, 15], [15]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:1]([CH:11]1[N+:18](=[CH:7][CH:33]=[CH:12][c:24]2[cH:8][cH:19][cH:6][cH:20][cH:9]2)[CH:17]([CH2:34][c:28]2[cH:42][cH:15][cH:21][cH:16][cH:43]2)[C:23](=[O:10])[N:29]1[CH3:22])([CH3:25])([CH3:26])[CH3:27].[CH3:2][CH:14]([CH3:3])[N+:32]1=[N:35][N:31]([CH:4]([CH3:36])[CH3:37])[C:38](=[CH2:30])[C-:5]1[C:13]([CH3:39])([CH3:40])[CH3:41]>>[C:1]([CH:11]1[N:18]([CH:7]=[CH:33][CH:12]([c:24]2[cH:8][cH:19][cH:6][cH:20][cH:9]2)[CH2:30][c:38]2[c:5]([C:13]([CH3:39])([CH3:40])[CH3:41])[n+:32]([CH:14]([CH3:2])[CH3:3])[n:35][n:31]2[CH:4]([CH3:36])[CH3:37])[CH:17]([CH2:34][c:28]2[cH:42][cH:15][cH:21][cH:16][cH:43]2)[C:23](=[O:10])[N:29]1[CH3:22])([CH3:25])([CH3:26])[CH3:27]", "epd": [["LP-/Pi+", [5], [38, 5]], ["Pi-/Sigma+", [30, 38], [30, 12]], ["Pi-/Pi+", [12, 33], [33, 7]], ["Pi-/LP+", [7, 18], [18]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[CH3:2][CH:9]([CH3:3])[N+:15]1=[N:18][N:14]([CH:4]([CH3:19])[CH3:20])[C:21](=[CH2:13])[C-:5]1[C:6]([CH3:22])([CH3:23])[CH3:24].[cH:1]1[cH:7][cH:16][c:12]([N+:10](=[CH2:11])[CH3:25])[cH:17][cH:8]1>>[cH:1]1[cH:7][cH:16][c:12]([N:10]([CH2:11][CH2:13][c:21]2[c:5]([C:6]([CH3:22])([CH3:23])[CH3:24])[n+:15]([CH:9]([CH3:2])[CH3:3])[n:18][n:14]2[CH:4]([CH3:19])[CH3:20])[CH3:25])[cH:17][cH:8]1", "epd": [["LP-/Pi+", [5], [21, 5]], ["Pi-/Sigma+", [13, 21], [13, 11]], ["Pi-/LP+", [11, 10], [10]]]}
{"reaction_name": "Nucleophilic addition to electrophilic azo nitrogen", "rsmi": "[C:1](=[O:15])([O:32][CH2:3][c:13]1[cH:19][cH:7][cH:11][cH:10][cH:22]1)[N:41]=[N:40][C:2](=[O:16])[O:33][CH2:4][c:14]1[cH:20][cH:8][cH:12][cH:9][cH:21]1.[N:5]1([c:17]2[c:42]([CH3:23])[cH:36][c:29]([CH3:27])[cH:39][c:45]2[CH3:26])[CH:35]=[CH:34][N:6]([c:18]2[c:43]([CH3:24])[cH:37][c:30]([CH3:28])[cH:38][c:44]2[CH3:25])[C:46]1=[CH2:31]>>[C:1]([O-:15])([O:32][CH2:3][c:13]1[cH:19][cH:7][cH:11][cH:10][cH:22]1)=[N:41][N:40]([C:2](=[O:16])[O:33][CH2:4][c:14]1[cH:20][cH:8][cH:12][cH:9][cH:21]1)[CH2:31][c:46]1[n+:5](-[c:17]2[c:42]([CH3:23])[cH:36][c:29]([CH3:27])[cH:39][c:45]2[CH3:26])[cH:35][cH:34][n:6]1-[c:18]1[c:43]([CH3:24])[cH:37][c:30]([CH3:28])[cH:38][c:44]1[CH3:25]", "epd": [["LP-/Pi+", [5], [46, 5]], ["Pi-/Sigma+", [31, 46], [31, 40]], ["Pi-/Pi+", [40, 41], [41, 1]], ["Pi-/LP+", [1, 15], [15]]]}
{"reaction_name": "Michael addition", "rsmi": "[O:2]=[C:22]1[N:7]([CH3:19])[C:21](=[O:9])[N:8]([CH3:20])[C:23](=[O:3])[C:15]1=[CH:17][c:10]1[cH:27][cH:5][c:16]([O:14][CH3:11])[cH:6][cH:28]1.[cH:1]1[c:25]2[cH:24][cH:13][cH:4][cH:18][c:29]2[cH-:12][cH:26]1>>[CH:1]1=[CH:26][CH:12]([CH:17]([c:10]2[cH:27][cH:5][c:16]([O:14][CH3:11])[cH:6][cH:28]2)[c:15]2[c:22]([O-:2])[n:7]([CH3:19])[c:21](=[O:9])[n:8]([CH3:20])[c:23]2=[O:3])[c:29]2[cH:18][cH:4][cH:13][cH:24][c:25]21", "epd": [["LP-/Sigma+", [12], [12, 17]], ["Pi-/Pi+", [17, 15], [15, 22]], ["Pi-/LP+", [22, 2], [2]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH3:3][C:9](=[C:4]=[N-:11])[c:12]1[cH:13][cH:15][cH:20][cH:16][cH:14]1.[c:1]1([N+:6](=[O:19])[O-:21])[s:7][cH:2][c:8]([N+:5](=[O:10])[O-:17])[cH:18]1>>[C:1]1([N+:6](=[O:19])[O-:21])=[CH:18][C:8](=[N+:5]([O-:10])[O-:17])[CH:2]([C:9]([CH3:3])([C:4]#[N:11])[c:12]2[cH:13][cH:15][cH:20][cH:16][cH:14]2)[S:7]1", "epd": [["LP-/Pi+", [11], [4, 11]], ["Pi-/Sigma+", [9, 4], [9, 2]], ["Pi-/Pi+", [2, 8], [8, 5]], ["Pi-/LP+", [5, 10], [10]]]}
{"reaction_name": "σ-Adduct formation on a neutral electron-poor arene / heteroarene", "rsmi": "[CH:1]([C:15](=[O:18])[c:21]1[cH:5][cH:27][c:19]([N:26]([CH3:22])[CH3:23])[cH:28][cH:6]1)=[S:29]([CH3:9])[CH3:10].[n:2]1[n:3][c:25]2[n:8]([cH:12][c:24]([N+:7](=[O:4])[O-:17])[cH:16][c:13]2[N+:14](=[O:11])[O-:30])[n:20]1>>[CH:1]([CH:12]1[n:8]2[n:20][n:2][n:3][c:25]2[C:13]([N+:14](=[O:11])[O-:30])=[CH:16][C:24]1=[N+:7]([O-:4])[O-:17])([C:15](=[O:18])[c:21]1[cH:5][cH:27][c:19]([N:26]([CH3:22])[CH3:23])[cH:28][cH:6]1)[S+:29]([CH3:9])[CH3:10]", "epd": [["Pi-/Sigma+", [1, 29], [1, 12]], ["Pi-/Pi+", [12, 24], [24, 7]], ["Pi-/LP+", [7, 4], [4]]]}
